* C:\Users\Ian Diaz\Desktop\TP02\Ex1\iB\Spice.asc
XU1 N002 N003 Vcc Vee N004 LM324
V1 N001 0 SINE(0 1 1K) AC 1
R1 N002 N001 10k
R3 0 N003 10K
R2 N003 N004 100k
R4 N002 0 40k
V2 Vcc 0 15
V3 0 Vee 15
.ac dec 10 10 10meg
.lib C:\Users\Ian Diaz\Desktop\TP02\Ex1\iB\LM324.mod
.backanno
.end
